US09428511B2
(3R,4S)-Benzyl 3-hydroxy-4-methylpyrrolidine-1-carboxylate (19.6 g, 83 mmol) was dissolved in pyridine (83 ml). To the above solution, Ts-Cl (22.2 g, 117 mmol) was added in portions at rt. After overnight stirring, the reaction mixture was concentrated in vacuo to remove pyridine. The residue was quenched with ice water (200 mL), extracted with ethyl acetate (3×150 mL). The combined ethyl acetate phase was washed with water, 1N HCl, water and sat. NaHCO3, then dried with Na2SO4. After concentration, (3S,4R)-benzyl 3-methyl-4-(tosyloxy)pyrrolidine-1-carboxylate (30 g, 92% yield) was obtained as light yellow oil. 1H NMR (400 MHz, chloroform-d) δ ppm 7.76-7.83 (2H, m), 7.30-7.40 (7H, m), 5.11 (2H, s), 4.57-4.64 (1H, m), 3.56-3.73 (2H, m), 3.38-3.54 (1H, m), 3.08-3.19 (1H, m), 2.33-2.55 (4H, m), 0.97 (3H, dd, J=14.86, 7.15 Hz); LCMS (CHROMOLITH® RP-18e 2.0×50 mm, 0.8 mL/min, Solvent A: 10% MeOH/water with 0.1% TFA, Solvent B: 90% MeOH/water with 0.1% TFA, gradient with 0-100% B over 4 minutes) retention time: 3.60 min; MS(ES+) m/z: 390 (M+H+).

reactant | (3R,4S)-Benzyl 3-hydroxy-4-methylpyrrolidine-1-carboxylate | 83 mmol, 19.6 g | O[C@H]1CN(C[C@@H]1C)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | Ts-Cl | 117 mmol, 22.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 83 ml | N1=CC=CC=C1 | C5H5N
product | (3S,4R)-benzyl 3-methyl-4-(tosyloxy)pyrrolidine-1-carboxylate | 30 g, 92% yield | C[C@H]1CN(C[C@@H]1OS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1 | C20H23NO5S
